US07547691B2
(R)-2-{5-Chloro-2-[3-(2,4-dimethyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is synthesized from (R)-2-{5-chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide and isolated as a yellow solid. ES+(m/z) 473 (35Cl) and 475 (37Cl) [M+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
reactant | (R)-2-{5-chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2[C@@H](CNCC2)C | C22H27ClN6OS
product | (R)-2-{5-Chloro-2-[3-(2,4-dimethyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride | Cl.Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2[C@@H](CN(CC2)C)C | InChI=1S/C23H29ClN6OS.3ClH/c1-15-14-29(3)10-11-30(15)9-5-8-26-23-27-13-18(24)21(28-23)20-12-17-16(22(31)25-2)6-4-7-19(17)32-20;;;/h4,6-7,12-13,15H,5,8-11,14H2,1-3H3,(H,25,31)(H,26,27,28);3*1H/t15-;;;/m1.../s1
